.include and.sub
.include not.sub
.subckt two_fourdecoder A1 A0 D3 D2 D1 D0 Vdd Gnd
xnot1 A1 n1 Vdd Gnd not
xnot2 A0 n0 Vdd Gnd not
xand1 n1 n0 D0 Vdd Gnd and
xand2 n1 A0 D1 Vdd Gnd and
xand3 n0 A1 D2 Vdd Gnd and
xand4 A1 A0 D3 Vdd Gnd and
.ends two_fourdecoder