.include NAND.sub
.include not.sub
.subckt xnor A B Y Vdd Gnd
X1 A B node_c Vdd Gnd NAND
X2 A node_c node_d Vdd Gnd NAND
X3 B node_c node_e Vdd Gnd NAND
X4 node_e node_d node_out Vdd Gnd NAND
X5 node_out Y Vdd Gnd not
.ends xnor
